US04902694
B. Preparation of thieno[3,2-c]pyridine-3-carboxaldehyde
To 2.14 g of 3-bromothieno[3,2-c]pyridine prepared as described above was added 150 ml of dry diethyl ether. The solution was stirred at room temperature for 15 minutes after which the temperature was gradually reduced to -70° C. and 6.5 ml of n-butyl lithium (1.6 molar) was added. The mixture was stirred for 30 minutes at -70° C. at which time a solution of 0.8 ml DMF in 20 ml of diethyl ether was added. This mixture was then stirred for an additional 1 hour and then allowed to warm to 0° C. at which time 3 ml of glacial acetic acid was added. The ether was removed via vacuum resulting in an oil which was taken up in approximately 400 ml of a mixture of 1N hydrochloric acid and water (pH adjusted to 1.5). This mixture was extracted with methylene chloride and the extract discarded. The pH of the mixture was adjusted to pH 11 and extracted a second time with methylene chloride. The extract was dried over magnesium sulfate and reduced to an oil via vacuum. The oil was taken up in hexane resulting in the formation of crystals of the desired subtitle intermediate which were collected and used as described below.

reactant | 3-bromothieno[3,2-c]pyridine | 2.14 g | BrC1=CSC2=C1C=NC=C2 | C7H4BrNS
reactant | n-butyl lithium | 1.6 molar, 6.5 ml | C(CCC)[Li]
reactant | DMF | 0.8 ml | CN(C)C=O | C3H7NO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | thieno[3,2-c]pyridine-3-carboxaldehyde | S1C=C(C=2C=NC=CC21)C=O | C8H5NOS
